US04992433
A mixture of 2 parts of 3-chloro-6-(1-piperazinyl)pyridazine, 2 parts of 4-formylbenzoic acid, 2 parts of a thiophene solution 4%, 1.5 parts of N,N-diethylethanamine and 80 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filterate was evaporated. The residue was converted into the hydrochoride salt in 2-propanol. The precipitated product was filtered off, washed with 2-propanol and 2,2'-oxybispropane and dried at 50° C., yielding 1.3 parts (35.2%) of 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]methyl]benzoic acid monohydrochloride; mp. >300° C. (comp. 98).

reactant | 3-chloro-6-(1-piperazinyl)pyridazine | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
reactant | 4-formylbenzoic acid | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | 4-[[4-(6-chloro-3-pyridazinyl)-1-piperazinyl]methyl]benzoic acid monohydrochloride | 35.2% | Cl.ClC1=CC=C(N=N1)N1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C16H17ClN4O2.ClH/c17-14-5-6-15(19-18-14)21-9-7-20(8-10-21)11-12-1-3-13(4-2-12)16(22)23;/h1-6H,7-11H2,(H,22,23);1H
